US05428047
3.9 g (14.2 mmol) of 3-(2,3-dichloro-phenylthiomethyl)-5-methyl-1,2,4-oxadiazole are introduced into 50 ml of glacial acetic acid and the mixture is treated with 9.8 ml of 30% strength hydrogen peroxide. The mixture is stirred at reflux temperature until the reaction is complete (approximately 2 hours). The entire batch is then introduced into 200 ml of water, and the crude product which has precipitated is separated off and recrystallised from isopropanol. 1.7 g (38.9% of theory) of 3-(2,3-dichloro-phenylsulphonylmethyl)-5-methyl-1,2,4-oxadiazole are obtained.

reactant | 3-(2,3-dichloro-phenylthiomethyl)-5-methyl-1,2,4-oxadiazole | 14.2 mmol, 3.9 g | ClC1=C(C=CC=C1Cl)SCC1=NOC(=N1)C | C10H8Cl2N2OS
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 200 ml | O | H2O
product | 3-(2,3-dichloro-phenylsulphonylmethyl)-5-methyl-1,2,4-oxadiazole | 1.7 g, 38.9% | ClC1=C(C=CC=C1Cl)S(=O)(=O)CC1=NOC(=N1)C | C10H8Cl2N2O3S
